US08461209B2
(1) dimethyl(4-nitrobenzyl)malonate
To a solution of dimethyl malonate (5.53 g) in THF (100 mL) was added 60% sodium hydride (1.84 g) under ice-cooling, and the mixture was stirred for 30 min. 4-Nitrobenzyl bromide (9.04 g) was added to this mixture under ice-cooling, and the mixture was allowed to warm to room temperature while stirring for 4 hr. The reaction mixture was adjusted to pH=2-3 by the addition of dilute hydrochloric acid, the precipitate was removed by filtration, and the filtrate was extracted with ethyl acetate (200 mL). The organic layer was washed with saturated brine and concentrated under reduced pressure to give the title compound (7.66 g) as a pale-yellow solid.

reactant | dimethyl malonate | 5.53 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 1.84 g | [H-].[Na+]
reactant | 4-Nitrobenzyl bromide | 9.04 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | dimethyl(4-nitrobenzyl)malonate | 7.66 g | COC(C(C(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H13NO6
